US05051422
4-[(Methylsulfonyl)amino]-N-[[4-(3-methoxyphenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]benzamide dihydrochloride
In a manner similar to Preparation 3, react 4-(3-methoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine (3.1 g, 10 mmol) with 4-[(methylsulfonyl)amino]benzoyl chloride (3.3 g, 15 mmol) to obtain the title compound.

reactant | 4-(3-methoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine | 10 mmol, 3.1 g | COC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC=CC=C1)CN | C19H25N3O
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 15 mmol, 3.3 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
product | 4-[(Methylsulfonyl)amino]-N-[[4-(3-methoxyphenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]benzamide dihydrochloride | Cl.Cl.CS(=O)(=O)NC1=CC=C(C(=O)NCC2N(CCN(C2)C2=CC(=CC=C2)OC)CC2=CC=CC=C2)C=C1 | InChI=1S/C27H32N4O4S.2ClH/c1-35-26-10-6-9-24(17-26)31-16-15-30(19-21-7-4-3-5-8-21)25(20-31)18-28-27(32)22-11-13-23(14-12-22)29-36(2,33)34;;/h3-14,17,25,29H,15-16,18-20H2,1-2H3,(H,28,32);2*1H
